US07101892B2
1-(4-Benzenesulfonyl-4-methylpentyl)-3-(1-propoxy)piperidine
The title compound was prepared from 1-(4-benzenesulfonyl-4-methylpentyl)-3-hydroxypiperidine and n-propyl iodide. NMR of hydrochloride salt:

reactant | 1-(4-benzenesulfonyl-4-methylpentyl)-3-hydroxypiperidine | C1(=CC=CC=C1)S(=O)(=O)C(CCCN1CC(CCC1)O)(C)C | C17H27NO3S
reactant | n-propyl iodide | C(CC)I | C3H7I
product | 1-(4-Benzenesulfonyl-4-methylpentyl)-3-(1-propoxy)piperidine | C1(=CC=CC=C1)S(=O)(=O)C(CCCN1CC(CCC1)OCCC)(C)C | C20H33NO3S
